US04042605
A suspension of 10 parts of 1,4-diaminoanthraquinone in 90 parts of dimethylsulfoxide is heated to 120° to 125° C., 12.5 parts of sodium cyanide is added all at once and then 5 parts of ammonium chloride is added within 15 minutes under an effective fume hood. The whole is stirred for another 3 hours at 120° to 125° C., whereupon one makes sure by a chromatogram that practically all of the starting material has been used up. The reaction mixture is allowed to cool and is diluted with 300 parts by volume of cold methanol, air is blown through under an effective fume hood for a short period, the precipitate is suction filtered and the filter cake is washed with methanol until the liquid running away is almost colorless. After drying, 9.5 parts of 1,4-diaminoanthraquinone-2,3-dinitrile is obtained.

reactant | 1,4-diaminoanthraquinone | NC1=CC=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)N | C14H10N2O2
reactant | dimethylsulfoxide | CS(=O)C | C2H6OS
reactant | sodium cyanide | [C-]#N.[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | methanol | CO | CH4O
product | 1,4-diaminoanthraquinone-2,3-dinitrile | NC1=C(C(=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)N)C#N)C#N | C16H8N4O2
